US07598264B2
6-(3-chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
4-Hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.43 g, 0.0016 mol) was dissolved in 10 mL dry DMF and 100 mg NaH was added. The mixture was allowed to stir until the bubbles ceased, then 3-chloro-4-fluoro benzyl bromide (0.362 g, 0.0016 mole) was added. The reaction was quenched with 30 mL of a 10% aq KHSO4 solution and diluted with 100 mL chloroform. The reaction was further diluted with 100 mL brine and allowed to stir vigorously for 30 minutes. The layers were separated and the aqueous layer was washed with chloroform. The organic fractions were combined and dried over NaSO4, filtered and concentrated under high vacuum to remove the DMF (yield 0.5 g, 75%). HPLC analysis showed 85% purity. The solid product was crystallized first from isopropanol, then from ethanol.

reactant | 4-Hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.0016 mol, 0.43 g | OC=1C(N(C(=C2CCNC(C12)=O)C(=O)N(C)C)C)=O | C12H15N3O4
reactant | NaH | 100 mg | [H-].[Na+]
reactant | 3-chloro-4-fluoro benzyl bromide | 0.0016 mole, 0.362 g | ClC=1C=C(CBr)C=CC1F | C7H5BrClF
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)O)=O)C=CC1F | C19H19ClFN3O4
